US07511059B2
N-(6-Amino-pyridin-2-yl)-2,2-dimethyl-propionamide
10 g of 2,6-diaminopyridine is dissolved in 150 ml of tetrahydrofuran. 48 ml of diisopropylethylamine and 20.8 ml of pivalic acid anhydride are added, and it is stirred for 15 hours at room temperature. The solvent is condensed in a rotary evaporator. After purification by chromatography on silica gel, 10.6 g of the title compound is obtained.

reactant | 2,6-diaminopyridine | 10 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | diisopropylethylamine | 48 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pivalic acid anhydride | 20.8 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-(6-Amino-pyridin-2-yl)-2,2-dimethyl-propionamide | 10.6 g | NC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H15N3O
